US07763731B2
1-[4-(4-Chloro-2-nitro-phenoxy)-phenyl]-ethanone
1-Bromo-4-chloro-2-nitrobenzene (5 g, 21.2 mmol) was added to a solution of 4-hydroxyacetophenone (2.87 g, 21.1 mmol), and K2CO3 (7.28 g, 0.052 mol) in DMF (50 mL). The mixture was heated at 80° C. for 15 h. The reaction was poured into water. The aqueous phase was extracted with ethyl acetate (2×) and the combined phases were washed with water, brine, and dried over sodium sulfate, filtered and concentrated under vacuum giving the crude title compound. The crude product was purified by flash chromatography eluting with (hexanes/ethyl acetate 70:30) to give the title compound (4.8 g, 77.8%).

reactant | 1-Bromo-4-chloro-2-nitrobenzene | 21.2 mmol, 5 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | 4-hydroxyacetophenone | 21.1 mmol, 2.87 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | K2CO3 | 0.052 mol, 7.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chloro-2-nitro-phenoxy)-phenyl]-ethanone | 4.8 g, 77.8% | ClC1=CC(=C(OC2=CC=C(C=C2)C(C)=O)C=C1)[N+](=O)[O-] | C14H10ClNO4
